US07943619B2
3-Chloro-4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine
As described for example 4, (5-methyl-3-phenyl-4-isoxazolyl)methanol (5.00 g, 26.4 mmol) was converted using 3,6-dichloro-4-methylpyridazine instead of 3-chloro-6-methylpyridazine to the title compound (4.59 g, 55%) which was obtained as a yellow oil. MS: m/e=316.1 [M]+.

reactant | (5-methyl-3-phenyl-4-isoxazolyl)methanol | 26.4 mmol, 5.00 g | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 3,6-dichloro-4-methylpyridazine | ClC=1N=NC(=CC1C)Cl | C5H4Cl2N2
product | 3-Chloro-4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 4.59 g, 55% | ClC=1N=NC(=CC1C)OCC=1C(=NOC1C)C1=CC=CC=C1 | C16H14ClN3O2
